US04607053
3-[[4-(1-Hexenyl)benzoyl]ethoxyamino]pentanoic acid
Following the procedure of Example 7 except substituting 1-bromopentane for 1-bromononane, ethoxylamine hydrochloride for methoxylamine hydrochloride and ethyl-3 iodovalerate for ethyl-4-iodobutyrate, and eliminating the addition of dicyclohexylamine, the title compound is obtained.

reactant | 1-bromononane | BrCCCCCCCCC | C9H19Br
reactant | ethoxylamine hydrochloride | Cl.O(CC)N
reactant | methoxylamine hydrochloride | Cl.O(C)N
reactant | ethyl-3 iodovalerate | C(C)OC(CC(CC)I)=O | C7H13IO2
reactant | ethyl-4-iodobutyrate | C(C)OC(CCCI)=O | C6H11IO2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
product | 3-[[4-(1-Hexenyl)benzoyl]ethoxyamino]pentanoic acid | C(=CCCCC)C1=CC=C(C(=O)CCONC(CC(=O)O)CC)C=C1 | C20H29NO4
